datasets/10k__Tet_Int.csv
SMILES Labelled
"CN([C:20](=[O:10])OC(C(C([O-:21])C)[H])C)CCCCCC>>CN([C:20]1(OC(C(C([O:21]1)C)[H])C)[O-:10])CCCCCC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"[O:10]([K])C(CC)C(C)C([H])C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C([H])C(C)C(CC)[O+:10]1([K]) 10=20;20,21=21"
"CC[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C)[O][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C)[O][H] 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([NH]CC)[NH]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([NH]CC)[NH]CC 21=20;20,10=10"
"[H][O:10]C([H])C(C)[O][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)[O]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"[O-:21][C:20]1(C)[O+:10]([K])C(CCC)C([H])C1O>>[O:10]([K])C(CCC)C([H])C([C:20](C)=[O:21])O 21=20;20,10=10"
"[H][O+:10](C(C)C(CC)[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C)C(CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C)C(CC)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C([H])[O][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C([H])[O]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([O]CC)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([O]CC)[O]C 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1[H])O[H])C)C>>C(C([O-:21])[H])(C(O[C:20](=[O:10])O[H])C)C 10=20;20,21=21"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])C1=CC=CC=C1)[H]>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)[H].[O-:21][H] 10=20;20,21=21"
"CC1C(O[C:20](N1C)([O-:10])[O:21]C)C>>CC1C(O[C:20](=[O:10])N1C)C.[O-:21]C 10=20;20,21=21"
"[H][S:10][H].[H][O+:21]=[C:20]([O]C)[O]CC.[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21][H])([O]C)[O]CC 10=20;20,21=21"
"[H][S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[O][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[O][H] 10=20;20,21=21"
"[H][S:10][H].C[O+:21]=[C:20]([S]CC)[S]C.[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21]C)([S]CC)[S]C 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21]C)[H])CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1C)[H])CCCCCC.[O-:21]C 10=20;20,21=21"
"C[O:10][H].[H][O+:21]=[C:20]([S]CC)[S]C.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21][H])([S]CC)[S]C 10=20;20,21=21"
"[O:10]([K])C(CCC)/C(O)=C([C:20](C)=[O:21])/C>>[O-:21][C:20]1(C)[O+:10]([K])C(CCC)C(O)=C1C 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C(C)[NH]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(C)[NH][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"[O-:10]C(C)C([H])C([C:20](OCC)=[O:21])[H]>>[O-:21][C:20]1(OCC)[O:10]C(C)C([H])C1[H] 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)C)C>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)C)C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C(C([O-:21])CC)(C(O[C:20](=[O:10])OCCCCCC)C)C>>C1(C(O[C:20]([O-:10])([O:21]C1CC)OCCCCCC)C)C 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]C)CC)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)CC)CCCCCC.[O-:21]C 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](CC)[CH]([H])C(C8=CC=CC=C8)[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21][H])[S]C(C)C(C)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(C)C(C)[O]2.[H][O:10][H] 21=20;20,10=10"
"CCCCCCC1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])[H]>>CCCCCCC1C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H].[Cl-:21] 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)CCCCCC)CC>>[H]N([C:20]1(OC(C(C([O:21]1)C)CCCCCC)CCCCCC)[O-:10])CC 21=20;20,10=10"
"[H][O+:10](C([H])C(CC)[O]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[O][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C([H])[S]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C([H])[S][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[O]1 10=20;20,21=21"
"[O-:10]C([H])C(C)C(O)C([H])[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])C(O)C(C)C([H])[O:10]1 10=20;20,21=21"
"[H][O:10]C([H])C(CC)[O][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(CC)[O]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1C)CC)CCCCCC.[O-:21][H]>>CC1C(C(O[C:20](N1C)([O-:10])[O:21][H])CC)CCCCCC 21=20;20,10=10"
"CC[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]CC)[S]CC.[Cl-]>>[Cl-].CC[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]CC)[S]CC 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])[H])[H])[H]>>[H]N([C:20]1(OC(C(C([O:21]1)[H])[H])[H])[O-:10])[H] 21=20;20,10=10"
